US07417057B2
Step D Synthesis of 7-Methylchromane-4-carbonitrile (iv) as an Intermediate
This compound was prepared in a manner analogous to that of Step E of Example 2, by 1) the reaction of 1.0 gram (0.006 mole) of 7-methylchroman-4-one (ii) with 1.8 gram (0.018 mole) of trimethylsilyl cyanide, in the presence of 0.2 gram (catalyst) of aluminum chloride in 30 mL of toluene, affording an intermediate product, namely: 7-methyl-4-(1,1-dimethyl-1-silaethoxy)chromane-4-carbonitrile (cyano-silyl intermediate), then 2) the reaction of the 1-silaethoxy intermediate with 3 mL (0.024 mole) of trimethylsilyl chloride, 3.6 grams (0.024 mole) of sodium iodide, and 0.2 mL of water in 30 mL of acetonitirile, yielding 0.8 gram of subject compound. Contrary to Step E of Example 2, the hydrogenation step was not necessary to obtain the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 7-methyl-4-(1,1-dimethyl-1-silaethoxy)chromane-4-carbonitrile | CC1=CC=C2C(CCOC2=C1)(C#N)O[Si](C)(C)C | C14H19NO2Si
reactant | trimethylsilyl chloride | 0.024 mole, 3 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium iodide | 0.024 mole, 3.6 grams | [I-].[Na+]
solvent | water | 0.2 mL | O | H2O
product | 7-Methylchromane-4-carbonitrile | 0.8 gram | CC1=CC=C2C(CCOC2=C1)C#N | C11H11NO
